US07132421B2
Hydrogen chloride gas was passed through a solution of 2-ethoxy-4-methoxy-benzonitrile (6.3 g, 35.55 mmol) in anhydrous ethanol (70 mL) cooled to −10° C. After 30 min, hydrogen chloride gas was stopped and the reaction mixture was stirred at room temperature in a closed reaction vessel for 4 d. The reaction vessel was cooled to 0° C. before the stopper was removed. Argon gas was passed through the solution to remove excess hydrogen chloride gas. The solvent was evaporated and the residue was triturated in diethyl ether (100 mL) to afford ethyl 2-ethoxy-4-methoxy-benzimidate hydrochloride (7.3 g, 79%). It was used without further purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-ethoxy-4-methoxy-benzonitrile | 35.55 mmol, 6.3 g | C(C)OC1=C(C#N)C=CC(=C1)OC | C10H11NO2
reactant | ethanol | 70 mL | C(C)O | C2H6O
product | ethyl 2-ethoxy-4-methoxy-benzimidate hydrochloride | 7.3 g, 79% | Cl.C(C)OC1=C(C(OCC)=N)C=CC(=C1)OC | InChI=1S/C12H17NO3.ClH/c1-4-15-11-8-9(14-3)6-7-10(11)12(13)16-5-2;/h6-8,13H,4-5H2,1-3H3;1H
